US05081138
Ethyl 1-(p-chlorobenzyl)-5-chloro-3-thiophenylindole-2-carboxylate
To a cold (78°), stirred solution containing 664 mg of ethyl 5-chloro-3-thiophenylindole -2-carboxylate from Preparation 5 in 3.5 mL of dry tetrahydrofuran, under argon, was added 3.5 mL of a 0.62M solution of potassium hexamethylsilamide in toluene. The reaction mixture was stirred at -78° for 1 h and at 0° for 1 h then recooled to -78°. 0.75 mL of p-chlorobenzyl chloride. 1.0 mL of hexamethylphosphoric triamide and 20 mg of tetra-n-butylammonium bromide were then added. The resultant mixture was allowed to warm to room temperature and stirred for 18 h. Saturated aqueous ammonium chloride and ether were added. The ether layer was separated, washed with water, 10% aqueous cupric sulfate, water and brine and dried over MgSO4.

reactant | ethyl 5-chloro-3-thiophenylindole -2-carboxylate | 664 mg | ClC=1C=C2C(=C(NC2=CC1)C(=O)OCC)C=1SC=CC1 | C15H12ClNO2S
reactant | potassium hexamethylsilamide | CC=1C(=C(C([SiH-](C1)(C)C)C)C)C.[K+]
reactant | p-chlorobenzyl chloride | 0.75 mL | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium bromide | 20 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ether | CCOCC | C4H10O
solvent | hexamethylphosphoric triamide | 1.0 mL | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | Ethyl 1-(p-chlorobenzyl)-5-chloro-3-thiophenylindole-2-carboxylate | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)Cl)C=2SC=CC2)C(=O)OCC)C=C1 | C22H17Cl2NO2S
